US07396844B1
Synthesis of 4-(4-iodobenzyl)pyridine
5.0 g (30 mmol) of 4-benzylpyridine was dissolved in 30 ml of acetic acid. 3.53 ml (65 mmol) of concentrated sulfuric acid, 2.99 g (11.8 mmol) of iodine and 1.17 g (5.9 mmol) of sodium iodate were added to the solution, and the resultant mixture was stirred at 70° C. for 20 hours. After cooling, 0.15 g of sodium metaperiodate was added to the reaction mixture. After the distillation under reduced pressure, water was added to the residue, which was washed with dichloromethane. After the addition of 1 N aqueous sodium hydroxide solution followed by the extraction with dichloromethane twice, the solvent was evaporated. The residue was purified by the silica gel column chromatography to obtain the title compound.

reactant | 4-benzylpyridine | 30 mmol, 5.0 g | C(C1=CC=CC=C1)C1=CC=NC=C1 | C12H11N
reactant | sulfuric acid | 65 mmol, 3.53 ml | S(O)(O)(=O)=O | H2O4S
reactant | iodine | 11.8 mmol, 2.99 g | II | I2
reactant | sodium iodate | 5.9 mmol, 1.17 g | I(=O)(=O)[O-].[Na+]
reactant | sodium metaperiodate | 0.15 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 4-(4-iodobenzyl)pyridine | IC1=CC=C(CC2=CC=NC=C2)C=C1 | C12H10IN
